US05468742
0.7 g of ethyl 1-cyclopropyl-6,7-difluoro-8-(1-hexinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate is refluxed for 3 hours in a mixture of 6 ml of glacial acetic acid, 0.5 ml of water and 0.1 ml of concentrated sulphuric acid. The reaction mixture is treated with 100 ml of water, and the solid is filtered off with suction and dried. 0.5 g of 1-cyclopropyl-6,7-difluoro-8-(1-hexinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is obtained (85% of theory).

reactant | ethyl 1-cyclopropyl-6,7-difluoro-8-(1-hexinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.7 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#CCCCC)F)F)=O)C(=O)OCC | C21H21F2NO3
reactant | water | 0.5 ml | O | H2O
reactant | sulphuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-6,7-difluoro-8-(1-hexinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#CCCCC)F)F)=O)C(=O)O | C19H17F2NO3
